US08895745B2
Step (d): 7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridine
A mixture of 7-chloro-imidazo[1,2-a]pyridine (15.0 g, 98.6 mmol), 4-fluorophenylboronic acid (16.55 g, 118.3 mmol), potassium carbonate (81.5 g, 590 mmol) in toluene-methanol-ethanol-water (1:1:1:1, 800 mL) was degassed with N2 and then bis(tri-tert-butylphosphine)palladium(0) (400 mg) added. The mixture was degassed and then heated to 80° C. for 18 h. The mixture was cooled to ambient, transferred to a separating funnel and the layers separated. The organic portion was reduced under reduced pressure and the residue extracted with dichloromethane. The dichloromethane extracts were washed with water, dried (MgSO4), filtered and concentrated under reduced pressure to afford 17.3 g (83%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 8.22 (1H, d), 7.87 (1H, s), 7.71 (1H, s), 7.69-7.58 (3H, m), 7.20 (2H, t), 7.11 (1H, d).

reactant | 7-chloro-imidazo[1,2-a]pyridine | 98.6 mmol, 15.0 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | 4-fluorophenylboronic acid | 118.3 mmol, 16.55 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 590 mmol, 81.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-methanol ethanol water | 800 mL | C=1(C(=CC=CC1)CO)C.C(C)O.O
product | 7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridine | 17.3 g, 83% | FC1=CC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C13H9FN2
